US04750931
A. Methyl 2-(2-fluoro-4-(2-fluoro-4-nitrophenoxy)phenoxy)propanoate
To a stirred mixture of methyl 2-(2-fluoro-4-hydroxyphenoxy propanoate (4.0 g, 0.019 mole), potassium carbonate (2.9 g, 0.021 mole) and dimethyl sulfoxide (25 ml), was added 3,4-difluoronitrobenzene (3.0 g, 0.019 mole), all at once. The temperature was raised to 50° C., and held there for 19 hours. After this time, the resultant mixture was cooled to room temperature, then diethyl ether (50 ml) was added. This was filtered, and the filtrate was diluted with additional diethyl ether (150 ml). The latter solution was washed with 2N HCL (2×100 ml), then water (3×100 ml). After drying (MgSO4) and filtering, the diethyl ether was rmoved by distillation. A brown viscous oil resulted (6.2 grams, 92 percent). NMR spectroscopy (1H, 19F) confirmed the structure as consistent with the structure for the desired product. It was used directly in the next step without further purification.

reactant | 2-fluoro-4-hydroxyphenoxy propanoate | 0.019 mole, 4.0 g | C(CC)(=O)OOC1=C(C=C(C=C1)O)F | C9H9FO4
reactant | potassium carbonate | 0.021 mole, 2.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfoxide | 25 ml | CS(=O)C | C2H6OS
reactant | 3,4-difluoronitrobenzene | 0.019 mole, 3.0 g | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | Methyl 2-(2-fluoro-4-(2-fluoro-4-nitrophenoxy)phenoxy)propanoate | FC1=C(OC(C(=O)OC)C)C=CC(=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C16H13F2NO6
